US08314098B2
(Step 2): 5-Chloro-7-morpholin-4-yl-2-pyridin-2-yl-pyrazolo[1,5-a]pyrimidine
There was suspended, in 1,4-dioxane (5 mL), 5,7-dichloro-2-pyridin-2-yl-pyrazolo[1,5-a]pyrimidine (348 mg. 1.31 mM), then morpholine (230 μL, 2.64 mM) was added to the suspension and the mixture was stirred at room temperature for 20 minutes. The solvent was distilled off from the reaction mixture, the residue obtained was diluted with water and then extracted with ethyl acetate. The extracts thus obtained were combined, dried over anhydrous sodium sulfate, the solvent was distilled off and the resulting solid was washed with diethyl ether to thus give the title compound (312 mg, yield: 75%). 1H-NMR (300 MHz, CDCl3): δ 3.84-3.87 (m, 4H), 3.99-4.02 (m, 4H), 6.12 (s, 1H), 7.16 (s, 1H), 7.30 (ddd, 1H, J=1.2, 5.0, 7.7 Hz), 7.78 (dt, 1H, J=1.8, 7.7 Hz), 8.11 (d, 1H, J=7.7 Hz), 8.70 (m, 1H); MS (ESI) m/z 316 (M+H)+.

reactant | 5,7-dichloro-2-pyridin-2-yl-pyrazolo[1,5-a]pyrimidine | 1.31 mM, 348 mg | ClC1=NC=2N(C(=C1)Cl)N=C(C2)C2=NC=CC=C2 | C11H6Cl2N4
reactant | morpholine | 2.64 mM, 230 μL | N1CCOCC1 | C4H9NO
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 5-Chloro-7-morpholin-4-yl-2-pyridin-2-yl-pyrazolo[1,5-a]pyrimidine | 312 mg, yield: 75% | ClC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C2=NC=CC=C2 | C15H14ClN5O
